US04616086
2-Diethylaminoethyl 4-{2-[1-(2-chlorobenzyl)-piperazin-4-yl]-ethyl}-benzoate
A mixture of 9.45 g. (21 mmole) 4-{2-[1-(2-chlorobenzyl)-piperazin-4-yl]-ethyl}-benzoyl chloride dihydrochloride, 50 ml. methylene chloride and 3.3 g. (28 mmole) 2-diethylaminoethanol is maintained at reflux temperature for 3 hours, then cooled and mixed with diethyl ether until turbidity appears. A thick precipitate is slowly deposited. This is filtered off with suction, washed with sec.-butanol and dissolved in a hot mixture of sec.-butanol and ethanol. Upon cooling and partial concentration, there are obtained 5.0 g. (35% of theory) of the desired compound in the form of its dihydrochloride; m.p. 220°-221° C.

reactant | 4-{2-[1-(2-chlorobenzyl)-piperazin-4-yl]-ethyl}-benzoyl chloride dihydrochloride | 21 mmole | Cl.Cl.ClC1=C(CN2CCN(CC2)CCC2=CC=C(C(=O)Cl)C=C2)C=CC=C1
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | 2-diethylaminoethanol | 28 mmole | C(C)N(CCO)CC | C6H15NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-Diethylaminoethyl 4-{2-[1-(2-chlorobenzyl)-piperazin-4-yl]-ethyl}-benzoate | ClC1=C(CN2CCN(CC2)CCC2=CC=C(C(=O)OCCN(CC)CC)C=C2)C=CC=C1 | C26H36ClN3O2
